US05455258
To a solution of N-[4-methoxybenzenesulfonyl]-(D)-valine t-butyl ester (4.38 g, 13.0 mmol) in dimethylformamide (200 mL) is added 3-picolyl chloride hydrochloride (2.3 g, 14.0 mmol) followed by potassium carbonate (17.94 g, 130.0 mmol). The reaction mixture is stirred at room temperature for 2 days. The mixture is then diluted with water and extracted with ethyl acetate. The combined organic extracts are washed with brine, dried (Na2SO4), and the solvent is evaporated. The crude product is purified by silica gel chromatography (ethyl acetate) to give t-butyl 2(R)-[N-[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoate.

reactant | N-[4-methoxybenzenesulfonyl]-(D)-valine t-butyl ester | 13.0 mmol, 4.38 g | C(C)(C)(C)OC([C@H](NS(=O)(=O)C1=CC=C(C=C1)OC)C(C)C)=O | C16H25NO5S
reactant | 3-picolyl chloride hydrochloride | 14.0 mmol, 2.3 g | Cl.N1=CC(=CC=C1)CCl
reactant | potassium carbonate | 130.0 mmol, 17.94 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | t-butyl 2(R)-[N-[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoate | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC(C)(C)C)C(C)C)CC=1C=NC=CC1 | C22H30N2O5S
